US09145392B2
Step 1: 6-chloro-5-(2,2,2-trifluoroethoxy)pyrimidin-4-amine
A reaction mixture of 4-Amino-6-chloro-pyrimidin-5-ol (500.00 mg; 3.44 mmol; 1.00 eq.), Cs2CO3 (1343.15 mg; 4.12 mmol; 1.20 eq.), and Trifluoro-methanesulfonic acid 2,2,2-trifluoro-ethyl ester (0.59 ml; 4.12 mmol; 1.20 eq.) in DMF 2 ml was stirred at RT for overnight. lc-ms showed clean desired, worked up, purified by HPLC, collected title compound 610 mg, yield 78%.

reactant | 4-Amino-6-chloro-pyrimidin-5-ol | 3.44 mmol, 500.00 mg, 1.00 eq. | NC1=NC=NC(=C1O)Cl | C4H4ClN3O
reactant | Cs2CO3 | 4.12 mmol, 1343.15 mg, 1.20 eq. | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | Trifluoro-methanesulfonic acid 2,2,2-trifluoro-ethyl ester | 4.12 mmol, 0.59 ml, 1.20 eq. | FC(COS(=O)(=O)C(F)(F)F)(F)F | C3H2F6O3S
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 6-chloro-5-(2,2,2-trifluoroethoxy)pyrimidin-4-amine | 610 mg, yield 78% | ClC1=C(C(=NC=N1)N)OCC(F)(F)F | C6H5ClF3N3O
